US04472411
0.7 g of sodium acetate was added to 7.5 g of 2-chloropropanol, to which 7.4 g of diketene was added dropwise with stirring while the reaction temperature was maintained at 40°-50° C. The reaction mixture was stirred at room temperature for an additional 2 hours and then worked up in the manner described in Referential Example 4. The resulting crude product was purified by distillation to obtain 9.8 g of 2-chloropropyl acetoacetate.

reactant | sodium acetate | 0.7 g | C(C)(=O)[O-].[Na+]
reactant | 2-chloropropanol | 7.5 g | ClC(CO)C | C3H7ClO
reactant | diketene | 7.4 g | C=C1CC(=O)O1 | C4H4O2
product | 2-chloropropyl acetoacetate | 9.8 g | C(CC(=O)C)(=O)OCC(C)Cl | C7H11ClO3
